US04120969
3,3-Diphenyl-1-isopropyl-4-(4-phenyl-4-hydroxypiperidinylmethyl)-2-pyrrolidinone Maleate
A mixture of 15 g. (0.046 mole) of 4-chloromethyl-3,3-diphenyl-1-isopropyl-2-pyrrolidinone, 8.1 g. (0.046 mole) of 4-hydroxy-4-phenylpiperidine, 8.2 g. (0.06 mole) of potassium carbonate and 200 ml. of ethanol was heated in a steel bomb at 200° C. for 48 hours. The cooled mixture was partitioned between water and isopropyl ether. The dried isopropyl ether layer (sodium sulfate) was concentrated. The residual material (19 g.) was dissolved in 150 ml. of isopropyl alcohol to which solution was added 7.0 g of maleic acid and 50 ml. of isopropyl ether. The maleate salt was collected and recrystallized from isopropyl alcohol-water. The dried salt weighed 8.0 g and melted at 207°-208° C.

reactant | 4-chloromethyl-3,3-diphenyl-1-isopropyl-2-pyrrolidinone | 0.046 mole | ClCC1C(C(N(C1)C(C)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22ClNO
reactant | 4-hydroxy-4-phenylpiperidine | 0.046 mole | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | potassium carbonate | 0.06 mole | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 3,3-Diphenyl-1-isopropyl-4-(4-phenyl-4-hydroxypiperidinylmethyl)-2-pyrrolidinone Maleate | C(\C=C/C(=O)O)(=O)O.C1(=CC=CC=C1)C1(C(N(CC1CN1CCC(CC1)(O)C1=CC=CC=C1)C(C)C)=O)C1=CC=CC=C1 | InChI=1S/C31H36N2O2.C4H4O4/c1-24(2)33-23-28(22-32-20-18-30(35,19-21-32)25-12-6-3-7-13-25)31(29(33)34,26-14-8-4-9-15-26)27-16-10-5-11-17-27;5-3(6)1-2-4(7)8/h3-17,24,28,35H,18-23H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
